US08034938B2
tert-Butyl 3-[(11s)-6-amino-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propylcarbamate (689 mg, 1.74 mmol) was dissolved in 10 mL of ethanol and 2 mL of a 4.0 M solution of HCl in ethanol was added. The reaction mixture was heated to 75° C. After 1 hour, the reaction mixture was concentrated under reduced pressure. The resulting residue was treated with 25 mL H2O and 20 mL of CHCl3. The layers were separated and the organic portion was discarded. The aqueous layer was then made basic by addition of 5 mL of concentrated NH4OH solution. The aqueous portion was then extracted with CHCl3 (6×10 mL). The combined organic extracts were concentrated under reduced pressure to give (11S)-11-(3-aminopropyl)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine (469 mg) as a white foam.

reactant | tert-Butyl 3-[(11s)-6-amino-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propylcarbamate | 1.74 mmol, 689 mg | NC1=NC2=CC=CC=C2C2=C1N=C1N2[C@H](COC1)CCCNC(OC(C)(C)C)=O | C21H27N5O3
reactant | HCl | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (11S)-11-(3-aminopropyl)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 469 mg | NCCC[C@H]1COCC=2N1C1=C(C(=NC3=CC=CC=C13)N)N2 | C16H19N5O
